US06235750B1
6-[(N-Acetamido)-4-(piperidin-4-yl)-phenyl]-pyridin-2-ylamine
Prepared from Example 13, using iodoacetamide to alkylate 6-[4-(piperidin-4-yl)-phenyl]-pyridin-2-ylamine, in 55%, mp 224-227° C.

reactant | iodoacetamide | ICC(=O)N | C2H4INO
reactant | 6-[4-(piperidin-4-yl)-phenyl]-pyridin-2-ylamine | N1CCC(CC1)C1=CC=C(C=C1)C1=CC=CC(=N1)N | C16H19N3
product | 6-[(N-Acetamido)-4-(piperidin-4-yl)-phenyl]-pyridin-2-ylamine | C(C)(=O)NN1CCC(CC1)C1=CC=C(C=C1)C1=CC=CC(=N1)N | C18H22N4O
